US05102877
To a solution of (R)-3-hydroxypyrrolidine hydrochloride (20 g) in a mixture of 1,4-dioxane (200 ml) and water (200 ml) were added triethylamine (49.6 ml) and di-t-butyl dicarbonate (38.9 g) at 0° C. After stirring for 12 hours at ambient temperature, the mixture was evaporated in vacuo. The residue was extracted with ethyl acetate, and the organic solution was washed with brine and dried over magnesium sulfate. The solvent was evaporated to give (R)-1-t-butoxycarbonyl-3-hydroxypyrrolidine (32 g).

reactant | (R)-3-hydroxypyrrolidine hydrochloride | 20 g | Cl.O[C@H]1CNCC1
reactant | triethylamine | 49.6 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 38.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | (R)-1-t-butoxycarbonyl-3-hydroxypyrrolidine | 32 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
